US07704989B2
A solution of 100 mg of 2-(6-aminopyridin-3-yl)propan-2-ol in 10 ml of 1,2-dimethoxyethane is treated with 190 mg of 3-bromo-2-oxo-N-phenylpropionamide, then stirred at 25° C. for 15 hours and brought to reflux for 3 hours. The reaction mixture is concentrated to dryness under reduced pressure and the residue is taken up in 40 ml of ethyl acetate and 40 ml of a saturated sodium carbonate solution. The aqueous phase is washed twice with 40 ml of ethyl acetate. The combined organic phases are dried and concentrated to dryness under reduced pressure. The residue is chromatographed on a cartridge of 40 g of silica, elution being carried out with dichloromethane and then with mixtures of dichloromethane and methanol, 97/3 and then 95/5. The fractions comprising the expected product are combined and concentrated to dryness to give 63 mg of 6-(1-hydroxy-1-methylethyl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide in the form of a white solid.

reactant | 2-(6-aminopyridin-3-yl)propan-2-ol | 100 mg | NC1=CC=C(C=N1)C(C)(C)O | C8H12N2O
reactant | 3-bromo-2-oxo-N-phenylpropionamide | 190 mg | BrCC(C(=O)NC1=CC=CC=C1)=O | C9H8BrNO2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 6-(1-hydroxy-1-methylethyl)-N-phenylimidazo[1,2-a]pyridine-2-carboxamide | 63 mg | OC(C)(C)C=1C=CC=2N(C1)C=C(N2)C(=O)NC2=CC=CC=C2 | C17H17N3O2
